US05401851
To a solution of N-Boc-trans-4-hydroxyproline methyl ester (10.0 g, 41 mmol) 150 mL of anhydrous THF at 0° C. under N2 was added triphenylphosphine (12.7 g, 48 mmol) and 4-nitrophenol (6.7 g, 48 mmol). To this mixture was added diethylazodicarboxylate (7.7 mL, 48 mmol) dropwise over a 30 minute period. The mixture was warmed to room temperature. After stirring for 2 days, the solvent was removed in vacuo, and the crude oil treated successively with 200 mL portions of toluene and ether to remove triphenylphosphine oxide and diethylazodihydrazide by crystallization. The resulting oil was then chromatographed (SiO2, 15-50% ethyl acetate/hexanes) to provide 5.2 g (34%) of N-Boc-4-(cis)-(4-nitrophenoxy)-L-proline methyl ester as a light yellow oil.

reactant | N-Boc-trans-4-hydroxyproline methyl ester | 41 mmol, 150 mL, 10.0 g | COC([C@H]1N(C[C@@H](C1)O)C(=O)OC(C)(C)C)=O | C11H19NO5
reactant | triphenylphosphine | 48 mmol, 12.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-nitrophenol | 48 mmol, 6.7 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | diethylazodicarboxylate | 48 mmol, 7.7 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | C1CCOC1 | C4H8O
product | N-Boc-4-(cis)-(4-nitrophenoxy)-L-proline methyl ester | 5.2 g, 34% | COC([C@H]1N(C[C@H](C1)OC1=CC=C(C=C1)[N+](=O)[O-])C(=O)OC(C)(C)C)=O | C17H22N2O7
